US07338960B2
Ethyl {[2-methyl-4-({1-[4′-(trifluoromethyl)-4-biphenylyl]pentyl}oxy)phenyl]oxy}acetate
To a solution of 1-[4′-(trifluoromethyl)-4-biphenylyl]-1-pentanol (250 mg, 0.81 mmol) in dry THF (20 mL) under nitrogen at 0° C. (ice/water bath) was added nBu3P (0.41 mL, 1.64 mmol), followed by ethyl (4-hydroxy-2-methylphenoxy)acetate (170 mg, 0.81 mmol) and ADDM (420 mg, 1.64 mmol) portion-wise. After stirring the mixture for 18 hours at rt under nitrogen the solvent was removed under vacuum. The residue was partitioned between water and EtOAc and the aqueous re-extracted with EtOAc (3×30 mL). The organic combined extract was dried (MgSO4) and then reduced under vacuum. Purification by flash chromatography (silica), eluting with cyclohexane:EtOAc (9:1) afforded the title compound as a colourless gum (310 mg).

reactant | 1-[4′-(trifluoromethyl)-4-biphenylyl]-1-pentanol | 0.81 mmol, 250 mg | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(CCCC)O)(F)F | C18H19F3O
reactant | nBu3P | 1.64 mmol, 0.41 mL | P(CCCC)(CCCC)CCCC | C12H27P
reactant | ethyl (4-hydroxy-2-methylphenoxy)acetate | 0.81 mmol, 170 mg | OC1=CC(=C(OCC(=O)OCC)C=C1)C | C11H14O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Ethyl {[2-methyl-4-({1-[4′-(trifluoromethyl)-4-biphenylyl]pentyl}oxy)phenyl]oxy}acetate | 310 mg | CC1=C(C=CC(=C1)OC(CCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)OCC | C29H31F3O4
